US05185467
541 g of 2-chloro-2-phenylpropane (3.5 mol) were added dropwise at 5° C. with stirring to a suspension of 35 g of clean pulverised aluminium chloride in 3.5 1 of dry benzene in the course of 5 h, and the mixture was kept at 5° C. for a further 15 min. and then poured onto ice. The benzene phase was neutralised with potassium carbonate after separating off the aqueous phase, dried and freed from excess benzene. 650 g of crude product were obtained, which was fractionally distilled through a column about 100 cm long. 527 g (78% of the theoretical yield) of 2,2-diphenylpropane passed over at 152°-160° C. and 20 mbar.

reactant | 2-chloro-2-phenylpropane | 3.5 mol, 541 g | ClC(C)(C)C1=CC=CC=C1 | C9H11Cl
reactant | aluminium chloride | 35 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | benzene | C1=CC=CC=C1 | C6H6
product | 2,2-diphenylpropane | C1(=CC=CC=C1)C(C)(C)C1=CC=CC=C1 | C15H16
